US07205326B2
1-[4-(4-Nitro-phenyl)-butyl]-1H-[1,2,3]triazole (2.89 g, 11.74 mmol) is hydrogenated in a mixture of methanol/THF (1:1, 50 ml) in the presence of palladium on charcoal (10%, 0.5 g) for 5 h. After filtration solvents are removed in vacuo yielding 4-(4-[1,2,3]triazol-1-yl-butyl)-phenylamine as a yellow gum. Yield 2.03 g (80%)

reactant | 1-[4-(4-Nitro-phenyl)-butyl]-1H-[1,2,3]triazole | 11.74 mmol, 2.89 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCCN1N=NC=C1 | C12H14N4O2
solvent | methanol THF | 50 ml | CO.C1CCOC1
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 4-(4-[1,2,3]triazol-1-yl-butyl)-phenylamine | N1(N=NC=C1)CCCCC1=CC=C(C=C1)N | C12H16N4
